US06566377B2
N-(1,1-Dimethyl-2-phenyl-ethyl)-2,2,2--trifluoroacetamide
In a 500 ml flame-dried flask, phentermine hydrochloride (5.0 g, 26.9 mmol) and pyridine (7.0 ml, 86.2 mmol) were dissolved in methylene chloride (100 ml). The resulting solution was cooled to about 0° C., and trifluoroacetic anhydride (7.6 ml, 53.9 mmol) was added dropwise over about four minutes. The solution was stirred for about five minutes at about 0° C., and the ice bath was then removed. After stirring for about ninety minutes at room temperature, the reaction mixture was recooled to about 0° C. and 100 ml of saturated aqueous ammonium chloride was added. The organic and aqueous layers were then separated, and the aqueous layer was reextracted with another 100 ml portion of methylene chloride. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting white solid (6.35 g, 96% yield) was used without further purification. LRMS ([M−1]−)=244.2.

reactant | phentermine hydrochloride | 26.9 mmol, 5.0 g | CC(C)(CC=1C=CC=CC1)N.Cl
reactant | pyridine | 86.2 mmol, 7.0 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 53.9 mmol, 7.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1,1-Dimethyl-2-phenyl-ethyl)-2,2,2--trifluoroacetamide | 6.35 g, 96% yield | CC(CC1=CC=CC=C1)(C)NC(C(F)(F)F)=O | C12H14F3NO
